US09447090B2
To a suspension of 750 mg of rac-(1R,2R)-1-[(tert-butoxycarbonyl)amino]indane-2-carboxylic acid in 15 ml of methanol was added 0.40 ml of thionyl chloride, followed by stirring overnight. The solvent was evaporated to about a half amount thereof under reduced pressure, to the obtained residue was added diethyl ether, and the insoluble material was collected by filtration and dried to obtain 512 mg of methyl rac-(1R,2R)-1-aminoindane-2-carboxylate hydrochloride.

reactant | rac-(1R,2R)-1-[(tert-butoxycarbonyl)amino]indane-2-carboxylic acid | 750 mg | C(C)(C)(C)OC(=O)NC1C(CC2=CC=CC=C12)C(=O)O | C15H19NO4
reactant | thionyl chloride | 0.40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 ml | CO | CH4O
product | methyl rac-(1R,2R)-1-aminoindane-2-carboxylate hydrochloride | 512 mg | Cl.NC1C(CC2=CC=CC=C12)C(=O)OC | InChI=1S/C11H13NO2.ClH/c1-14-11(13)9-6-7-4-2-3-5-8(7)10(9)12;/h2-5,9-10H,6,12H2,1H3;1H
